US05859007
Bromoacetyl bromide (6.0 mL) in methylene chloride (100 mL) is added dropwise to a 0° C. solution of N-Isopropyl-N-(3,4-methylenedioxy-phenyl) aniline, prepared as in Part A, (12.0 g) in methylene chloride (100 mL) and triethylamine (9.41 mL) and the resultant mixture is allowed to attain RT overnight. The reaction mixture is washed with 1N hydrochloric acid (3×80 mL), water (2×80 mL), brine (80 mL), dried, (MgSO4) and concentrated in vacuo to afford crude N-Isopropyl-N-(3,4-methylenedioxy-phenyl) bromoacetamide (16.3 g) as a black mobile oil which is used without further purification: 1H NMR (300 MHz, CDCl3) δ6.82 (d, 1H, J=8.2), 6.61 (m, 2H), 4.90 (m, 1H, J=6.8), 3.58 (s, 2H), 1.07 (m, 6H).

reactant | Bromoacetyl bromide | 6.0 mL | BrCC(=O)Br | C2H2Br2O
reactant | N-Isopropyl-N-(3,4-methylenedioxy-phenyl) aniline | C(C)(C)N(C1=CC=CC=C1)C1=CC2=C(C=C1)OCO2 | C16H17NO2
reactant | triethylamine | 9.41 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-N-(3,4-methylenedioxy-phenyl) bromoacetamide | 16.3 g | C(C)(C)N(C(CBr)=O)C1=CC2=C(C=C1)OCO2 | C12H14BrNO3
